US04731370
In 5 ml of ethyl acetate was dissolved 1.26 g of 2-[N-methyl-N-[(E)-3-[4-(pyridin-3-ylmethyl)phenyl]-2-methylallyl]amino]ethanol, and to the resulting solution was dropwise added a mixture of 0.36 ml of diketene and 1 ml of ethyl acetate under reflux over one hour, after which the resulting mixture was subjected to reaction at the same temperature for 30 minutes. Subsequently, the solvent was removed by distillation under reduced pressure, and the residue thus obtained was purified by a column chromatography [Wako Silica Gel C-200, eluant: benzene:ethyl acetate (1:1 by volume)] to obtain 1.06 g (yield 65.8%) of colorless, oily 2-[N-methyl-N-[(E)-3-[4-(pyridine-3-ylmethyl)phenyl]-2-methylallyl]amino]ethyl acetoacetate.

reactant | 2-[N-methyl-N-[(E)-3-[4-(pyridin-3-ylmethyl)phenyl]-2-methylallyl]amino]ethanol | 1.26 g | CN(C\C(=C\C1=CC=C(C=C1)CC=1C=NC=CC1)\C)CCO | C19H24N2O
reactant | diketene | 0.36 ml | C=C1CC(=O)O1 | C4H4O2
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | 2-[N-methyl-N-[(E)-3-[4-(pyridine-3-ylmethyl)phenyl]-2-methylallyl]amino]ethyl acetoacetate | yield 65.8% | C(CC(=O)C)(=O)OCCN(C\C(=C\C1=CC=C(C=C1)CC=1C=NC=CC1)\C)C | C23H28N2O3
